US07807709B2
b. 3-(3-Methoxy-propoxy)-4-methyl-benzoic acid methyl ester
A solution of 3-hydroxy-4-methyl-benzoic acid methyl ester (7.7 g, 32.43 mmol), potassium carbonate (6.72 g, 48.65 mmol) and 1-iodo-3-methoxy propane (7.14 g, 35.68 mmol) in acetonitrile (125 mL) is stirred at reflux for 26 h. The solvent is concentrated under reduced pressure, H2O (100 mL) is added, and the aqueous layer is extracted with ether (50 mL×4). The combined organic extracts are washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the title which is used without further purification in the next step. TLC, Rf (hexane/AcOEt 2:1)=0.65. 1H-NMR (CDCl3, 300 MHz): δ=2.10 (p, 2H), 2.3 (s, 3H), 3.38 (s, 3H), 3.62 (t, 2H), 3.9 (s, 3H), 4.15 (t, 2H), 7.15 (d, 1H), 7.45 (s, 1H), 7.55 (d, 1H) ppm.

reactant | 3-hydroxy-4-methyl-benzoic acid methyl ester | 32.43 mmol, 7.7 g | COC(C1=CC(=C(C=C1)C)O)=O | C9H10O3
reactant | potassium carbonate | 48.65 mmol, 6.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodo-3-methoxy propane | 35.68 mmol, 7.14 g | ICCCOC | C4H9IO
solvent | acetonitrile | 125 mL | C(C)#N | C2H3N
product | 3-(3-Methoxy-propoxy)-4-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C)OCCCOC)=O | C13H18O4
